US07732457B2
6-(Aminomethyl)pyridin-2-amine (0.050 g, 0.4 mmol) was dissolved in EtOH (2 mL) and Toluene (10 mL) was added. To this mixture was added pTSA (5 mg) and 1,4-diphenyl-1,4-butanedione (0.124 g, 0.4 mmol). The solution was heated to reflux overnight. The solvent was removed and the residue was purified by flash chromatography (20:1 CHCl3: MeOH) to yield 6-[(2,5-diphenyl-1H-pyrrol-1-yl)methyl]pyridin-2-amine as a white solid. mp 143-144° C.; 1H NMR (500 MHz, DMSO-d6) δ: 5.06 (s, 2H), 5.50 (d, 1H, J=7.3 Hz), 5.82 (s, 2H), 6.16 (d, 1H, J=8.1 Hz), 6.34 (s, 2H), 7.18 (t, 1H, J=7.47 Hz), 7.28 (t, 2H, J=8.5 Hz), 7.36 (m, 4H), 7.40 (m, 4H); MS (ES) m/z 326.3.

reactant | 6-(Aminomethyl)pyridin-2-amine | 0.4 mmol, 0.050 g | NCC1=CC=CC(=N1)N | C6H9N3
reactant | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | pTSA | 5 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 1,4-diphenyl-1,4-butanedione | 0.4 mmol, 0.124 g | C1(=CC=CC=C1)C(CCC(=O)C1=CC=CC=C1)=O | C16H14O2
solvent | EtOH | 2 mL | CCO | C2H6O
product | 6-[(2,5-diphenyl-1H-pyrrol-1-yl)methyl]pyridin-2-amine | C1(=CC=CC=C1)C=1N(C(=CC1)C1=CC=CC=C1)CC1=CC=CC(=N1)N | C22H19N3
